US04217130
In this example, L-proline (11.5 g; 0.10 mole) and caustic soda (8.0 g; 0.2 moles) are dissolved in 100 ml water, and a solution of p-methylphenylsulfonyl chloride (20.9 g) dissolved in ether (80 ml) is added thereto with vigorous stirring under cooling in an ice bath (5°-10° C.). After reaction for about 5 hours, the reaction mixture is left standing, and the upper ether layer is removed. The remaining aqueous layer is admixed with 2N hydrochloric acid to adjust the pH to 3-4. After being left standing in a cool place (0°-5° C.), the deposited crystals are filtered off. The crystals are recrystallized from an aqueous 60% ethanol solution (about 200 ml), whereby p-methylphenylsulfonyl-L-proline (compound number 15; 20.1 g; m.p. 57°-59° C.) was obtained. Yield: 70%.

reactant | L-proline | 0.10 mole, 11.5 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | caustic soda | 0.2 moles, 8.0 g | [OH-].[Na+]
reactant | p-methylphenylsulfonyl chloride | 20.9 g | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
solvent | water | 100 ml | O | H2O
solvent | ether | 80 ml | CCOCC | C4H10O
product | p-methylphenylsulfonyl-L-proline | 20.1 g, Yield: 70% | CC1=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1 | C12H15NO4S
